US08058432B2
Step 2: Synthesis of Nα-(2,6-dichlorobenzoyl)-4-iodo-L-phenylalanine methyl ester
Methanol (40 mL) and 0.98 mL of concentrated sulfuric acid were added to 8.0 g of Nα-(2,6-dichlorobenzoyl)-4-iodo-L-phenylalanine and the reaction was carried out for 4 hours while heating the reaction system at 40° C. After confirming the completion of the reaction, the reaction system was cooled to 10° C. and 20 mL of water was dropwise added to separate out solid. The solid thus precipitated was isolated through filtration under reduced pressure, washed with 40 mL of water and then dried at 70° C. under reduced pressure to thus give 7.40 g of the desired product as a solid.

reactant | Methanol | 40 mL | CO | CH4O
reactant | sulfuric acid | 0.98 mL | S(O)(O)(=O)=O | H2O4S
reactant | Nα-(2,6-dichlorobenzoyl)-4-iodo-L-phenylalanine | 8.0 g | ClC1=C(C(=O)N[C@@H](CC2=CC=C(C=C2)I)C(=O)O)C(=CC=C1)Cl | C16H12Cl2INO3
solvent | water | 20 mL | O | H2O
product | Nα-(2,6-dichlorobenzoyl)-4-iodo-L-phenylalanine methyl ester | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)I)=O | C17H14Cl2INO3
